US07176194B2
a) 1-(4-Carboxymethylbenzyl)-4-aza-1-azoniabicyclo[2.2.2]octane bromide (31)
At 70° C., 1.0 g of (3-bromomethylphenyl) acetic acid in 5 ml of dimethyl sulfoxide were added to a solution of 1.5 g of 1,4-diazabicyclo[2.2.2]octane in 10 ml of dimethyl sulfoxide. After 1 h, 100 ml of water were added and the mixture was freeze-dried. The residue was digested with acetone. The residue contained the product of molecular weight 261.35 (cation: C15H21N2O2+); MS (ESI) 261.1 (M+).

reactant | (3-bromomethylphenyl) acetic acid | 1.0 g | BrCC=1C=C(C=CC1)CC(=O)O | C9H9BrO2
reactant | 1,4-diazabicyclo[2.2.2]octane | 1.5 g | N12CCN(CC1)CC2 | C6H12N2
reactant | water | 100 ml | O | H2O
reactant | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
reactant | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 1-(4-Carboxymethylbenzyl)-4-aza-1-azoniabicyclo[2.2.2]octane bromide | [Br-].C(=O)(O)CC1=CC=C(C[N+]23CCN(CC2)CC3)C=C1 | InChI=1S/C15H20N2O2.BrH/c18-15(19)11-13-1-3-14(4-2-13)12-17-8-5-16(6-9-17)7-10-17;/h1-4H,5-12H2;1H
